US05538939
3-Methyl-4-thiocyanato-5-aminoisothiazole
386 g of 3-methyl-4-bromo-5-aminoisothiazole and 200 g of KSCN in methanol are refluxed for 6 hours. The product crystallizes out on cooling. 800 ml of water are added and the product is filtered off under suction and washed with water.

reactant | 3-methyl-4-bromo-5-aminoisothiazole | 386 g | CC1=NSC(=C1Br)N | C4H5BrN2S
reactant | KSCN | 200 g | C(#N)[S-].[K+]
solvent | methanol | CO | CH4O
product | 3-Methyl-4-thiocyanato-5-aminoisothiazole | CC1=NSC(=C1SC#N)N | C5H5N3S2
